US08729097B2
Synthesis of 8-(2-hydroxyethyl)5-chloroquinoline (3b)
A mixture of 5-chloro-8-hydroxyquinoline (1 mmol, 180 mg), ethylene carbonate (2 mmol, 180 mg) and Cs2CO3 (0.6 mmol, 195 mg) in dry DMF (10 mL) was stirred vigorously at 120° C. for 3 h. DMF was evaporated under high-vacuum and the residue was dissolved in water (15 mL), extracted twice with dichloromethane (15 mL), and the residue left after evaporation of dichloromethane was chromatographed over silica gel (eluent: 4:1 hexanes-EtOAc). A biege colored solid was obtained (174 mg, 78%).

reactant | 5-chloro-8-hydroxyquinoline | 1 mmol, 180 mg | ClC1=C2C=CC=NC2=C(C=C1)O | C9H6ClNO
reactant | ethylene carbonate | 2 mmol, 180 mg | C1(OCCO1)=O | C3H4O3
reactant | Cs2CO3 | 0.6 mmol, 195 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 8-(2-hydroxyethyl)5-chloroquinoline | OCCC=1C=CC(=C2C=CC=NC12)Cl | C11H10ClNO
